US06136974
b) 5-(2-Hydroxyethyl)thio-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione
To a stirred solution of 3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione ((J. Med. Chem., 1995, 38, 2557; 0.50 g) and bis-[dimethyl(1,1-dimethylethyl)silyloxyethyl]disulphide (1.06 g) in anhydrous tetrahydrofuran (15 ml) at -78° C. was added dropwise a solution of lithium diisopropylamide (2.78 mmol) in tetrahydrofuran (5 ml). The solution was stirred for a further 0.5 h at -78° C. and then allowed to warm to ambient temperature. Saturated aqueous sodium bicarbonate solution (10 ml) was added and the solution was extracted with ethyl acetate. The organic extracts were dried over magnesium sulphate and concentrated in vacuo. The residue was redissolved in acetonitrile (10 ml) and treated with 40% aqueous hydrofluoric acid at ambient temperature. The solution was stirred for 1 hour, then neutralised with aqueous sodium bicarbonate solution and extracted with ethyl acetate. The organic extracts were dried over magnesium sulphate and concentrated in vacuo. Chromatography on silica gel (diethyl ether) gave the subtitle compound (0.47 g) as a white solid.

reactant | 3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | CN1C(N(C=2C(C1=O)=CN(C2)CC2=CC=CC1=CC=CC=C21)CC(C)C)=O | C22H23N3O2
reactant | bis-[dimethyl(1,1-dimethylethyl)silyloxyethyl]disulphide | 1.06 g | CC(CSSCC(O[SiH2]C(C)(C)C)(C)C)(O[SiH2]C(C)(C)C)C | C16H38O2S2Si2
reactant | lithium diisopropylamide | 2.78 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 5-(2-Hydroxyethyl)thio-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 0.47 g | OCCSC=1N(C=C2N(C(N(C(C21)=O)C)=O)CC(C)C)CC2=CC=CC1=CC=CC=C21 | C24H27N3O3S
